US06635657B1
Preparation of 5-Chloro-N-(5-chloropyridin-2-yl)-2-[[1-(1-phenylethyl)piperidin-4-ylcarbonyl]amino]benzamide Hydrochloride
To a stirred solution of 5-chloro-N-(5-chloropyridin-2-yl)-2-[(4-piperidinylcarbonyl)amino]benzamide trifluoroacetate (0.2 g, 0.39 mmol) and triethylamine (0.115 mL, 0.82 mmol) in N,N-dimethylformamide (5 mL) was added (1-bromoethyl)benzene (0.065 mL, 0.47 mmol). After stirring for 72 h at room temperature, the solution was passed through an SCX column (2 N ammonia in methanol) and concentrated in vacuo. The preparative RPHPLC (C18) purification procedure was elution with a linear gradient of 80/20 to 50/50 (0.01% HCl/acetonitrile) over 180 min. The product containing fractions were combined and lyophilized to give 0.091 g (44%) of the title compound as a white solid.

reactant | 5-chloro-N-(5-chloropyridin-2-yl)-2-[(4-piperidinylcarbonyl)amino]benzamide trifluoroacetate | 0.39 mmol, 0.2 g | FC(C(=O)O)(F)F.ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCNCC1
reactant | triethylamine | 0.82 mmol, 0.115 mL | C(C)N(CC)CC | C6H15N
reactant | (1-bromoethyl)benzene | 0.47 mmol, 0.065 mL | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | ammonia | 2 N | N | H3N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 5-Chloro-N-(5-chloropyridin-2-yl)-2-[[1-(1-phenylethyl)piperidin-4-ylcarbonyl]amino]benzamide Hydrochloride | 0.091 g, 44% | Cl.ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCN(CC1)C(C)C1=CC=CC=C1 | InChI=1S/C26H26Cl2N4O2.ClH/c1-17(18-5-3-2-4-6-18)32-13-11-19(12-14-32)25(33)30-23-9-7-20(27)15-22(23)26(34)31-24-10-8-21(28)16-29-24;/h2-10,15-17,19H,11-14H2,1H3,(H,30,33)(H,29,31,34);1H
